US06552022B1
4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzenesulfonyl)-piperazin-1-yl]-phenyl]-amide
To a stirred solution of 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (0.318 g) in CH2Cl2 (20 mL) containing. Et3N (90 mg) was added dropwise 3-cyano-benzenesulfonyl chloride (0.179 g) and the mixture was stirred at room temperature for 48 hours. The solution was then washed with water, with brine, dried over Na2SO4, filtered and evaporated. The residue was then purified by flash chromatography eluting with CH2Cl2 to give the title compound (0.39 g) as a white solid.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | 0.318 g | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N3O
reactant | Et3N | 90 mg | CCN(CC)CC | C6H15N
reactant | 3-cyano-benzenesulfonyl chloride | 0.179 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzenesulfonyl)-piperazin-1-yl]-phenyl]-amide | 0.39 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C31H25F3N4O3S
